US05000775
Ethyl 2-(propylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate
By the procedure of Example 4, 6.13 g (60 mmol) of n-propyl urea was reacted with 10.9 g (50 mmol) of ethyl 2-chloro-4,4,4-trifluoroacetoacetate at 140°-150° C. for 18 hours. The product was separated and then recrystallized from n-heptane to yield 2.3 g of a yellow powder product (m.p.=33°-34° C.) identified in Table I.

reactant | n-propyl urea | 60 mmol, 6.13 g | C(CC)NC(=O)N | C4H10N2O
reactant | ethyl 2-chloro-4,4,4-trifluoroacetoacetate | 50 mmol, 10.9 g | ClC(C(=O)OCC)C(=O)C(F)(F)F | C6H6ClF3O3
product | Ethyl 2-(propylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate | 2.3 g | C(CC)NC=1OC(=C(N1)C(F)(F)F)C(=O)OCC | C10H13F3N2O3
